US06320051B1
2-{2-[(3,4-Dichlorobenzylamino)methyl]allylamino}-1H-quinolin-4-one
The title compound was prepared according to the method described in Example 23(b) from 2-(2-aminomethylallylamino)-1H-quinolin-4-one dihydrochloride (85 mg, 0.28 mmol), 3,4-dichlorobenzaldehyde (50 mg, 0.29 mmol), sodium acetate (47 mg, 0.58 mmol) and sodium cyanoborohydride (18 mg, 0.29 mmol). The crude product was purified by silica gel chromatography eluting with dichloromethane and increasing concentrations of methanol containing 10% concentrated aqueous ammonia to yield a white solid. δH (CD3OD) 3.21(2H, s), 3.66(2H, s), 3.89(2H, s), 5.07(2H, d, J=8.41 Hz), 5.55(1H, s), 7.1-7.2(3H, m), 7.33(1H, d, J=8.2 Hz), 7.4-7.5(2H, m), 7.97(1H, d, J=8.75); MS (ES+) 388 (100%) MH+.

reactant | 2-(2-aminomethylallylamino)-1H-quinolin-4-one dihydrochloride | 0.28 mmol, 85 mg | Cl.Cl.NCC(CNC=1NC2=CC=CC=C2C(C1)=O)=C
reactant | 3,4-dichlorobenzaldehyde | 0.29 mmol, 50 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | sodium acetate | 0.58 mmol, 47 mg | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.29 mmol, 18 mg | C(#N)[BH3-].[Na+]
product | 2-{2-[(3,4-Dichlorobenzylamino)methyl]allylamino}-1H-quinolin-4-one | ClC=1C=C(CNCC(CNC=2NC3=CC=CC=C3C(C2)=O)=C)C=CC1Cl | C20H19Cl2N3O
